US07241791B2
Step 2: 4-(7-fluoro-1-isobutyl-1H-indazole-3-yl)benzene-1,3-diol
Prepared according to Method D step C from 3-(2,4-dimethoxyphenyl)-7-fluoro-1-isobutyl-1H-indazole (0.177 g, 0.5 mmol), boron tribromide (0.275 mL, 2.90 mmol) and 1.0 mL of cyclohexene to give the product (0.085 g) as a white solid.

reactant | 3-(2,4-dimethoxyphenyl)-7-fluoro-1-isobutyl-1H-indazole | 0.5 mmol, 0.177 g | COC1=C(C=CC(=C1)OC)C1=NN(C2=C(C=CC=C12)F)CC(C)C | C19H21FN2O2
reactant | boron tribromide | 2.90 mmol, 0.275 mL | B(Br)(Br)Br | BBr3
reactant | cyclohexene | 1.0 mL | C1=CCCCC1 | C6H10
product | 4-(7-fluoro-1-isobutyl-1H-indazole-3-yl)benzene-1,3-diol | 0.085 g | FC=1C=CC=C2C(=NN(C12)CC(C)C)C1=C(C=C(C=C1)O)O | C17H17FN2O2
